US07888347B2
4-(5,6,7,8-Tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzonitrile (D11)
1,1-Dimethylethyl 2-(4-cyanophenyl)-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (may be prepared as described in Description 10) (150 mg, 0.443 mmol) was dissolved in 1,4-dioxan (ml) and 4M hydrogen chloride in 1,4-dioxan (3 ml) added. The mixture was stirred at room temperature for 2 hours. Methanol was added and the mixture purified on 10 g SCX column, eluting initially with methanol, than with 2M ammonia in methanol. Evaporation of the basic fractions gave the title compound (D11). MS (ES+) m/e 239 [M+H]+

reactant | 1,1-Dimethylethyl 2-(4-cyanophenyl)-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | 0.443 mmol, 150 mg | C(#N)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C19H22N4O2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | Methanol | CO | CH4O
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxan | 3 ml | O1CCOCC1 | C4H8O2
product | 4-(5,6,7,8-Tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)benzonitrile | N=1N(C=C2C1CCNCC2)C2=CC=C(C#N)C=C2 | C14H14N4
